US07727989B2
(a) 5-Bromo-3-methoxy-2-(2-trimethylsilanylethoxymethoxy)benzaldehyde
10 g of 5-bromo-2-hydroxy-3-methoxybenzaldehyde, 23.9 g of potassium carbonate and 12.2 g of (2-chloromethoxyethyl)trimethylsilane is suspended in 500 ml of DMF and stirred at room temperature for 48 hours. The DMF is distilled off in vacuo, the residue is dissolved in ethyl acetate, and the resulting solution is extracted with water. It is then dried over magnesium sulphate and filtered, and the solvent is distilled off. The crude product is purified by silica gel chromatography (heptane/ethyl acetate).

reactant | 5-bromo-2-hydroxy-3-methoxybenzaldehyde | 10 g | BrC=1C=C(C(=C(C=O)C1)O)OC | C8H7BrO3
reactant | potassium carbonate | 23.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | (2-chloromethoxyethyl)trimethylsilane | 12.2 g | ClCOCC[Si](C)(C)C | C6H15ClOSi
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | 5-Bromo-3-methoxy-2-(2-trimethylsilanylethoxymethoxy)benzaldehyde | BrC=1C=C(C(=C(C=O)C1)OCOCC[Si](C)(C)C)OC | C14H21BrO4Si
